US09376422B2
To a stirred solution of methyl 2-methyl-3-nitro-5-(trifluoromethyl)benzoate (5.6 g, 20.97 mmol) in ethanol (40 mL) was added ammonium chloride (5.6 g, 104.6 mmol) dissolved in water (30 mL) and iron powder (4.67 g, 85.16 mmol). The resulting mixture was heated at 80° C. for 1 h. On completion, water was added to the reaction then the mixture was filtered through celite. The filtrate was extracted with ethyl acetate. The combined organic layers were dried then concentrated under reduced pressure to give methyl 3-amino-2-methyl-5-(trifluoromethyl)benzoate.

reactant | methyl 2-methyl-3-nitro-5-(trifluoromethyl)benzoate | 20.97 mmol, 5.6 g | CC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C10H8F3NO4
reactant | ammonium chloride | 104.6 mmol, 5.6 g | [Cl-].[NH4+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
catalyst | iron | 85.16 mmol, 4.67 g | [Fe] | Fe
product | methyl 3-amino-2-methyl-5-(trifluoromethyl)benzoate | NC=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C | C10H10F3NO2
